US04371391
To a stirred suspension of N,4,6-trimethoxy-1,3,5-triazin-2-amine (0.01 mol) in dry methylene chloride (24 ml) is added 2-methylsulfonylbenzenesulfonyl isocyanate (0.014 mol). The mixture is stirred at ambient temperature for 24 hours. The solvent is then evaporated under reduced pressure. The residue is stirred in 1-chlorobutane (50 ml) for 5 hours. The solid is then filtered, washed with ether and dried to yield N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)(methoxy)aminocarbonyl]-2-(methylsulfonyl)benzenesulfonamide.

reactant | N,4,6-trimethoxy-1,3,5-triazin-2-amine | 0.01 mol | CONC1=NC(=NC(=N1)OC)OC | C6H10N4O3
reactant | 2-methylsulfonylbenzenesulfonyl isocyanate | 0.014 mol | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C8H7NO5S2
solvent | methylene chloride | 24 ml | C(Cl)Cl | CH2Cl2
product | N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)(methoxy)aminocarbonyl]-2-(methylsulfonyl)benzenesulfonamide | COC1=NC(=NC(=N1)OC)N(C(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)OC | C14H17N5O8S2
